US04122179
Vincamine theophylline-7-acetate
The salt is prepared, likewise the preceding examples, from 7.08 g (2.10-2 moles) of vincamine and 4.77 g (2.10-2 moles) of theophylline-7-acetic acid. There are obtained 12 g of a crystalline product having melting point of 188° C., which is soluble in alcohol and insoluble in water and in the common organic solvents.

reactant | vincamine | 2.10-2 moles, 7.08 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
reactant | theophylline-7-acetic acid | 2.10-2 moles, 4.77 g | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)O | C9H10N4O4
product | Vincamine theophylline-7-acetate | 12 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-] | InChI=1S/C21H26N2O3.C9H10N4O4/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;1-11-7-6(8(16)12(2)9(11)17)13(4-10-7)3-5(14)15/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;4H,3H2,1-2H3,(H,14,15)/p-1/t18-,20+,21+;/m1./s1
